US09126998B2
tert-Butyl [2-(3,3-difluoropyrrolidin-1-yl)ethyl]carbamate
900 mg of 3,3-difluoropyrrolidine hydrochloride (6.27 mmol, 1 equivalent) were initially charged in 62 ml of acetonitrile, 1475 mg of tert-butyl (2-bromoethyl)carbamate (6.58 mmol, 1.05 equivalent) and then 3.28 ml of N,N-diisopropylethylamine (2.43 g, 18.81 mmol, 3 equivalents) were added and the mixture was stirred at 80° C. overnight. 0.5 equivalent of 3,3-difluoropyrrolidine hydrochloride (450 mg, 3.14 mmol) was then added, and stirring of the reaction solution was continued at 80° C. overnight. The reaction solution was concentrated and purified on a silica gel column (mobile phase: cyclohexane/ethyl acetate gradient: from 5/1 to pure ethyl acetate). This gave 431 mg (28% of theory) of the title compound.

reactant | 3,3-difluoropyrrolidine hydrochloride | 6.27 mmol, 900 mg, 1 equivalent | Cl.FC1(CNCC1)F
reactant | tert-butyl (2-bromoethyl)carbamate | 6.58 mmol, 1475 mg, 1.05 equivalent | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | N,N-diisopropylethylamine | 18.81 mmol, 3.28 ml, 2.43 g, 3 equivalents | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,3-difluoropyrrolidine hydrochloride | 3.14 mmol, 450 mg, 0.5 equivalent | Cl.FC1(CNCC1)F
solvent | acetonitrile | 62 ml | C(C)#N | C2H3N
product | tert-Butyl [2-(3,3-difluoropyrrolidin-1-yl)ethyl]carbamate | FC1(CN(CC1)CCNC(OC(C)(C)C)=O)F | C11H20F2N2O2
